US09108977B2
670 mg of t-butyl 1-[(benzyloxy)methyl]-6-methyl-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate was stirred at room temperature for 3.5 hours in a 48% aqueous hydrobromic acid solution. The reaction mixture was extracted with hexane and a side-product, benzyl bromide, was removed. Then, the aqueous layer was alkalified by the addition of a 1 M aqueous sodium hydroxide solution, and 20 ml of tetrahydrofuran was added thereto. To the mixed liquid was added 500 mg of di-t-butyl dicarbonate, followed by stirring at room temperature for 2 hours. The reaction mixture was extracted with ethyl acetate and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure to obtain 513 mg of t-butyl 6-methyl-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate as a colorless foamed substance.

reactant | t-butyl 1-[(benzyloxy)methyl]-6-methyl-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 670 mg | C(C1=CC=CC=C1)OCN1C(CCC2=CC3=C(C=C12)CCN(CC3C)C(=O)OC(C)(C)C)=O | C27H34N2O4
reactant | hydrobromic acid | Br | BrH
product | t-butyl 6-methyl-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 513 mg | CC1CN(CCC2=C1C=C1CCC(NC1=C2)=O)C(=O)OC(C)(C)C | C19H26N2O3
